US07173055B1
A solution of 1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid (0.68 g) and oxalyl chloride (0.49 g) in methylene chloride (30 ml) is stirred for 2 hours at room temperature in the presence of a catalytic amount of DMF. The resulting acid chloride solution is then added to a solution of 4′-chlorobiphenyl-2-ylamine (0.71 g) and triethylamine (0.36 g) in 15 ml of methylene chloride at 0° C. The reaction mixture is then stirred for 4 hours at room temperature. After distilling off the solvent in a water-jet-vacuum, the residue is taken up in ethylacetate/water. The ethylacetate phase is extracted twice with water. After drying of the organic phase with Na2SO4, the solvent is distilled off in a water-jet-vacuum and the residue purified by column chromatography (silica gel; eluant: ethylacetate/hexane=1:1). 0.8 g of 1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid (4′-chlorobiphenyl-2-yl) amide are obtained in the form of slightly brownish crystals having a melting point of 144–146° C.

reactant | 1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid | 0.68 g | CN1N=C(C(=C1)C(=O)O)C(F)(F)F | C6H5F3N2O2
reactant | oxalyl chloride | 0.49 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 4′-chlorobiphenyl-2-ylamine | 0.71 g | ClC1=CC=C(C=C1)C1=C(C=CC=C1)N | C12H10ClN
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.36 g | C(C)N(CC)CC | C6H15N
product | 1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid (4′-chlorobiphenyl-2-yl) amide | 0.8 g | ClC1=CC=C(C=C1)C1=C(C=CC=C1)NC(=O)C=1C(=NN(C1)C)C(F)(F)F | C18H13ClF3N3O
